US07531532B2
N-[1-(3-Dimethylaminopropyl)piperidin-4-yl]-N-methylamine
A solution of tert-butyl [1-(3-dimethylaminopropionyl)piperidin-4-yl]carbamate (2.73 g) in tetrahydrofuran (30 ml) was stirred in an ice bath, and lithium aluminum hydride (1.04 g) was gradually added thereto. The mixture was stirred under a nitrogen atmosphere, for 15 minutes in an ice bath and for 15 minutes at room temperature. It was further heated to reflux for 7 hours under a nitrogen atmosphere. The reaction mixture was cooled in an ice bath, and then water (1.0 ml), 5N aqueous sodium hydroxide (1.0 ml) and water (5.0 ml) were added thereto in that order and stirring was carried out on ice. The insoluble portion was filtered. The filtrate was concentrated to provide the title compound (1.51 g, 83.2%) as a pale yellow oil.

reactant | tert-butyl [1-(3-dimethylaminopropionyl)piperidin-4-yl]carbamate | 2.73 g | CN(CCC(=O)N1CCC(CC1)NC(OC(C)(C)C)=O)C | C15H29N3O3
reactant | lithium aluminum hydride | 1.04 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.0 ml | O | H2O
reactant | sodium hydroxide | 5N, 1.0 ml | [OH-].[Na+]
reactant | water | 5.0 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-[1-(3-Dimethylaminopropyl)piperidin-4-yl]-N-methylamine | 1.51 g, 83.2% | CN(CCCN1CCC(CC1)NC)C | C11H25N3
